US03993768
5.85 G. of 1-amino-2-nitro-4-thiocyanatobenzene in 20 ml. dimethylformamide is treated under nitrogen with 1.14 g. sodium borohydride at not greater than 30°. The mixture is stirred for one hour at 15°-20°, then treated with 12 g. of 1,3-dibromopropane at 20°-25°. After a further 3 hours, water is added and the crude product extracted with chloroform. The dried chloroform solution is passed through a column of silica gel to remove polar material. Pure 1-amino-2-nitro-4-(3-bromopropylthio)benzene is obtained from the eluate.

reactant | 1-amino-2-nitro-4-thiocyanatobenzene | NC1=C(C=C(C=C1)SC#N)[N+](=O)[O-] | C7H5N3O2S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium borohydride | [BH4-].[Na+]
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
solvent | water | O | H2O
product | 1-amino-2-nitro-4-(3-bromopropylthio)benzene | NC1=C(C=C(C=C1)SCCCBr)[N+](=O)[O-] | C9H11BrN2O2S
